US07109354B2
b) 4-Methoxymethoxy-biphenyl-3-yl-boronic acid
Butyllithium (2.5M, 1.44 mL, 3.6 mmol) was added over 5 min to a stirred solution of 4-methoxymethoxy-biphenyl (from the previous step 385 mg, 1.8 mmol) in Et2O (18 mL) at 0° C. The reaction was allowed to warm to rt and stirred for 2 h. The solution was cooled to −78° C. and trimethylborate (1.23 mL, 10.8 mmol) in THF (10 mL) was quickly added. The reaction warmed to rt over 1 h and was stirred 1 h at rt, during which it became cloudy and a gelatin-like residue appeared. EtOAc (70 mL) and water (30 mL) were added along with HCl (1N, 1 mL). The biphasic solution was stirred for 10 min and the layers were separated. The organic layer was further extracted with HCl (0.1N, 3×20 mL), brine (60 mL), and was dried over sodium sulfate. Removal of the solvents in vacuo followed by chromatography of the residue (20–40% EtOAc in hexanes) yielded the title compound (135 mg, 29%) as a light-brown solid. The title compound exists as a mixture of boronic acids and anhydrides in CDCl3, therefore the reported NMR signals represent pairs or groups of related signals. 1H-NMR (CDCl3): δ 8.07 (d, 1H, J=2.6 Hz), 7.60 (m, 3H), 7.42 (m, 2H), 7.31 (m, 1H), 7.19 (d, 1H, J=8.6 Hz), 6.20 (s, 1H), 5.32 (s, 2H), 3.77 (s, 1H), 3.53 (s, 3H).

reactant | Butyllithium | 3.6 mmol, 2.5M, 1.44 mL | C(CCC)[Li]
reactant | 4-methoxymethoxy-biphenyl | COCOC1=CC=C(C=C1)C1=CC=CC=C1 | C14H14O2
reactant | trimethylborate | 10.8 mmol, 1.23 mL | COB(OC)OC | C3H9BO3
reactant | HCl | 1N, 1 mL | Cl | ClH
solvent | Et2O | 18 mL | CCOCC | C4H10O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
product | 4-Methoxymethoxy-biphenyl-3-yl-boronic acid | 135 mg, 29% | COCOC1=C(C=C(C=C1)C1=CC=CC=C1)B(O)O | C14H15BO4
